US05846989
a) 2-[2-(5-Methyl-2-thienyl)ethoxy]acetic acid
Sodium hydride (0.622 g) was suspended in dry dimethylformamide (5 ml) and treated dropwise with a solution of 2-(5-methyl-2-thienyl)ethanol (1.0 g) in dry dimethylformamide (5 ml). The mixture was stirred at room temperature under nitrogen for 2 hours then a solution of chloroacetic acid (0.664 g) in dry dimethylformamide (5 ml) added. The mixture was stirred at room temperature overnight. The volatiles were removed in vacuo and the residue quenched with water and extracted with ethyl acetate. The aqueous layer was adjusted to pH 2 using dilute hydrochloric acid and then extracted with ethyl acetate. This extract was washed with water, brine then dried (MgSO4). The solvent was removed in vacuo to give a brown oil (1.51 g) which was used without further purification.

reactant | Sodium hydride | 0.622 g | [H-].[Na+]
reactant | 2-(5-methyl-2-thienyl)ethanol | 1.0 g | CC1=CC=C(S1)CCO | C7H10OS
reactant | chloroacetic acid | 0.664 g | ClCC(=O)O | C2H3ClO2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-[2-(5-Methyl-2-thienyl)ethoxy]acetic acid | 1.51 g | CC1=CC=C(S1)CCOCC(=O)O | C9H12O3S
